US05298652
To 1.12 g (2.6 mmol) of alpha-oxo-4-[(12-phenoxydodecyl)oxy]benzeneacetic acid in 50 ml of methylene chloride containing 2 drops of anhydrous DMF stirred and cooled in an ice bath was added 1.1 ml (13 mmol) of oxalyl chloride. The cooling bath was removed and stirring was continued at room temperature for 1.5 hours. The solvent was removed at reduced pressure and the resultant solid acid chloride was dissolved in 50 ml of methylene chloride and added dropwise to a stirred, ice bath cooled solution of 0.7 ml (5.25 mmol) of diethyl iminodiacetate and 0.7 ml (5.25 mmol) of triethylamine in 15 ml of methylene chloride. The reaction mixture was stirred at room temperature for 16 hours and then was concentrated at reduced pressure. The resultant crude product was triturated with methanol and filtered to give 1.32 g (84% yield, mp 55°-56°) of N-(2-ethoxy-2-oxoethyl)-N-[1,2-dioxo-2-[4-[(12-phenoxydodecyl)oxy] phenyl]ethyl]glycine ethyl ester. The nmr and mass spectra were consistent with the structure.

reactant | alpha-oxo-4-[(12-phenoxydodecyl)oxy]benzeneacetic acid | 2.6 mmol, 1.12 g | O=C(C(=O)O)C1=CC=C(C=C1)OCCCCCCCCCCCCOC1=CC=CC=C1 | C26H34O5
reactant | oxalyl chloride | 13 mmol, 1.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethyl iminodiacetate | 5.25 mmol, 0.7 ml | N(CC(=O)OCC)CC(=O)OCC | C8H15NO4
reactant | triethylamine | 5.25 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
catalyst | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(2-ethoxy-2-oxoethyl)-N-[1,2-dioxo-2-[4-[(12-phenoxydodecyl)oxy] phenyl]ethyl]glycine ethyl ester | 1.32 g, 84% yield | C(C)OC(CN(C(C(C1=CC=C(C=C1)OCCCCCCCCCCCCOC1=CC=CC=C1)=O)=O)CC(=O)OCC)=O | C34H47NO8
